US08859602B2
d) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-hydroxy-tetrahydro-thiopyran-4-yl)-phenyl]-amide
The title compound was prepared by the procedure of Example 11 using 4-cyano-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide (as prepared in the previous step, 120 mg, 0.323 mmol) and tetrahydro-thiopyran-4-one (188 mg, 1.62 mmol). Silica gel chromatography (1-3% MeOH/DCM) afforded the title compound (82.3 mg, 62%) as a white solid. 1H-NMR (CDCl3; 400 MHz): δ 12.56 (s, 1H), 9.66 (s, 1H), 8.29 (d, 1H, J=8.6 Hz), 7.74 (d, 1H, J=2.5 Hz), 7.42 (dd, 1H, J=8.6, 2.3 Hz), 7.33 (d, 1H, J=2.3 Hz), 5.86 (m, 1H), 3.22 (m, 2H), 2.46-2.54 (m, 2H), 2.22-2.33 (m, 4H), 2.16-2.22 (m, 2H), 2.01-2.09 (m, 2H), 1.73-1.89 (m, 5H). Mass spectrum (ESI, m/z): Calcd. for C22H24N4O2S, 409.2 (M+H). found 409.1.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid (4-bromo-2-cyclohex-1-enyl-phenyl)-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCCCC1 | C17H15BrN4O
reactant | tetrahydro-thiopyran-4-one | 1.62 mmol, 188 mg | S1CCC(CC1)=O | C5H8OS
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(4-hydroxy-tetrahydro-thiopyran-4-yl)-phenyl]-amide | 82.3 mg, 62% | C1(=CCCCC1)C1=C(C=CC(=C1)C1(CCSCC1)O)NC(=O)C=1NC=C(N1)C#N | C22H24N4O2S
